US08686022B2
1-methyl-7-[4-(2-piperazin-1-yl-acetyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
160 mg tert-butyl 4-(2-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazin-1-yl}-2-oxo-ethyl)-piperazine-1-carboxylate are dissolved in 5 ml dichloromethane, combined with 1 ml of a 5 M solution of hydrogen chloride in isopropanol and stirred for 12 hours at ambient temperature. Then the solvents are eliminated in vacuo and the residue is divided between saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic phase is washed with saturated aqueous sodium chloride solution and then dried on magnesium sulphate. The solvent is eliminated in vacuo and the residue is chromatographed on aluminium oxide (dichloromethane/methanol 100:0 to 95:5).

reactant | tert-butyl 4-(2-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazin-1-yl}-2-oxo-ethyl)-piperazine-1-carboxylate | 160 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O)C)OC)NS(=O)(=O)C | C38H55N7O7S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-methyl-7-[4-(2-piperazin-1-yl-acetyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(CN1CCNCC1)=O)C)OC)NS(=O)(=O)C | C33H47N7O5S
